US05952355
3',4',5'-Trimethoxyacetophenone (15.0 g) and pyrrolidone hydrotribromide (35.39 g) were dissolved in tetrahydrofuran (225 ml), followed by stirring at 40° C. for one hour. The reaction solution was cooled to room temperature, precipitated crystals were filtered off, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography, and the obtained crude crystals were washed with hexane (100 ml) to give 2-bromo-3',4',5'-trimethoxyacetophenone (Compound XIa, 12.20 g).

reactant | 3',4',5'-Trimethoxyacetophenone | 15.0 g | COC=1C=C(C=C(C1OC)OC)C(C)=O | C11H14O4
reactant | pyrrolidone hydrotribromide | 35.39 g | C1CC(=O)NC1.Br[Br-]Br
solvent | tetrahydrofuran | 225 ml | O1CCCC1 | C4H8O
product | 2-bromo-3',4',5'-trimethoxyacetophenone | 12.20 g | BrCC(=O)C1=CC(=C(C(=C1)OC)OC)OC | C11H13BrO4
